### PR TITLE
feat: add min and max to seval

### PR DESCRIPTION
**Pull request by bollu**
This PR adds support for `min` and `max` into the `seval` for `Nat`, `Int`, `UInt`, and `SInt`.
We don't add support for `Fin` since it does not have instances of `Min` and `Max`.

We add tests to `simprocEval{1, 2, 4}.lean`, which have tests for `Nat`, `Int`, and `UInt` respectively, and tests for `SInt` are at `simprocSInt`. `simprocEval2` has tests for `Fin`, which does not have `min` and `max` defined.

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: tests/lean/simprocEval4.lean [hunk 1]
```diff
@@ -91,3 +101,4 @@ example (h : x) : x = ((3 : Int) ≠ 4) := by
   simp
   trace_state
   assumption
+
```
Comment (bollu) [inline tests/lean/simprocEval4.lean:104]:
```suggestion
```

File: tests/lean/simprocEval1.lean [hunk 2]
```diff
@@ -87,3 +97,4 @@ example (h : x) : x = (3 ≠ 4) := by
   simp
   trace_state
   assumption
+
```
Comment (bollu) [inline tests/lean/simprocEval1.lean:100]:
```suggestion
```

**Review by tobiasgrosser — APPROVED** [review]
HI @bollu, this looks great. Can you double check the following:

- You cover each type in your test cases
- Using just `min` on plain constants does not always default to `Nat`

**Comment by bollu** [comment]
@tobiasgrosser thanks for the comment. I've updated all the tests, and explain where each component is tested.

> Using just min on plain constants does not always default to Nat

It does not, since the files have functions such as `foo (x : Nat) : UInt`, which forces the type to be a `UInt`.

File: tests/lean/run/simprocSInt.lean [hunk 3]
```diff
@@ -48,6 +48,8 @@ example : Int8.toInt (-8) + 8 = 0 := by simp +ground only
 #check_simp x = 2 - -3 ~> x = 5
 #check_simp x = 4 / -3 ~> x = -1
 #check_simp x = -5 % 3 ~> x = -2
+#check_simp x = min (-5)  (-10) ~> x = -10
+#check_simp x = max (-5)  (-10) ~> x = -5
```
Comment (b-mehta) [inline tests/lean/run/simprocSInt.lean:52]:
```suggestion
#check_simp x = min (-5) (-10) ~> x = -10
#check_simp x = max (-5) (-10) ~> x = -5
```

File: tests/lean/run/simprocSInt.lean [hunk 4]
```diff
@@ -129,6 +131,8 @@ example : Int32.toInt (-32) + 32 = 0 := by simp +ground only
...
```
Comment (b-mehta) [inline tests/lean/run/simprocSInt.lean:135]:
```suggestion
#check_simp x = min (-5) (-10) ~> x = -10
#check_simp x = max (-5) (-10) ~> x = -5
```

File: tests/lean/run/simprocSInt.lean [hunk 5]
```diff
@@ -167,6 +171,8 @@ example : Int64.toInt (-64) + 64 = 0 := by simp +ground only
...
```
Comment (b-mehta) [inline tests/lean/run/simprocSInt.lean:175]:
```suggestion
#check_simp x = min (-5) (-10) ~> x = -10
#check_simp x = max (-5) (-10) ~> x = -5
```

File: tests/lean/simprocEval1.lean [hunk 6]
```diff
@@ -40,6 +40,16 @@ example : foo x = Nat.gcd 10 20 := by
   trace_state
   rw [foo]
 
+example  : foo x = min 20 10 := by
```
Comment (b-mehta) [inline tests/lean/simprocEval1.lean:43]:
```suggestion
example : foo x = min 20 10 := by
```

**Review by b-mehta — APPROVED** [review]
